US04048161
A. Preparation of 2-Hydroxymethylbenzimidazole
To 150 ml. of 4N hydrochloric acid were added 10.8 gms. (100 mmoles.) of o-phenylenediamine and 11.4 gms. (150 mmoles.) of glycolic acid. The mixture was refluxed for 40 minutes. The solution then was cooled, filtered, and neutralized by the addition of concentrated ammonium hydroxide. The title compound precipitated and was filtered and dried to obtain 4 gms. of product.

reactant | hydrochloric acid | 4N | Cl | ClH
reactant | o-phenylenediamine | 100 mmoles | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | glycolic acid | 150 mmoles | C(CO)(=O)O | C2H4O3
product | 2-Hydroxymethylbenzimidazole | OCC=1NC2=C(N1)C=CC=C2 | C8H8N2O
